US09353108B2
B) Methyl 7-(1-(tert-butoxycarbonyl)piperidin-4-yl)-8-oxo-5,6,7,8-tetrahydro-1,7-naphthyridine-2-carboxylate
A mixture of tert-butyl 4-((2-(2,6-dichloropyridin-3-yl)ethyl)amino)piperidine-1-carboxylate (10.5 g), a dichloromethane adduct of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (2.30 g), triethylamine (11.8 mL), methanol (20 mL), and DMF (60 mL) was stirred at 90° C. for 7 hours in a carbon monooxide (5 atm) atmosphere. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (4.01 g).

reactant | tert-butyl 4-((2-(2,6-dichloropyridin-3-yl)ethyl)amino)piperidine-1-carboxylate | 10.5 g | ClC1=NC(=CC=C1CCNC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C17H25Cl2N3O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethylamine | 11.8 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monooxide | [C]=O | CO
reactant | methanol | 20 mL | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 2.30 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | Methyl 7-(1-(tert-butoxycarbonyl)piperidin-4-yl)-8-oxo-5,6,7,8-tetrahydro-1,7-naphthyridine-2-carboxylate | 4.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC=2C=CC(=NC2C1=O)C(=O)OC | C20H27N3O5
